US07863293B2
Using General Procedure B: Reaction of 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester and 3-[1-(4-Chloro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde with NaBH(OAc)3 in CH2Cl2 gave 4-[{3-[1-(4-Chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as a white solid. Deprotection with TFA using General Procedure F gave {3-[1-(4-Chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-(3,5-dimethyl-pyridin-2-ylmethyl)-piperidin-4-yl-amine as a white solid.

reactant | 4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=C(C=C1C)C | C18H29N3O2
reactant | 3-[1-(4-Chloro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | ClC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14ClNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[{3-[1-(4-Chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=C(C=C1C)C)CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)Cl | C33H43ClN4O2
